US07893141B2
Example: A 1-liter round-bottomed flask was equipped with a pressure equalizing addition funnel was flushed with nitrogen and charged with 41.5 grams (451 mmol.) of glycerol, 750 ml. of methylene chloride and 100 mg. of p-toluenesulfonic acid. Trimethyl orthoacetate, 56.9 grams (473 mmol), was added over 5 minutes at room temperature, with stirring. The stirring was continued for 18 hours followed by addition of 1 gram of anhydrous sodium carbonate. The mixture was stirred for one additional hour and filtered. The solvent was stripped under vacuum to yield 65 grams (97% of theoretical) of 4-hydroxymethyl-2-methoxy-2-methyl-1,3-dioxolane as a clear oil. Its molecular structure was confirmed by proton and carbon-13 nuclear magnetic resonance spectroscopy. A 3-necked 2 liter round-bottomed flask was equipped with a mechanical stirrer, condenser, thermometer, and addition funnel. The flask was charged with 0.5 g methyltrialkylammonium chloride, 100 mL chloroform, 30 mL distilled water, and 32 g of 50 percent aqueous sodium hydroxide. The flask was immersed in a ice-water bath and cooled to approximately 10° C. while stirring rapidly followed by addition of 30 g (0.2 mol) 4-hydroxymethyl-2-methoxy-2-methyl-1,3-dioxolane. A solution of 20.2 g terephthaloyl chloride (0.1 mol) in chloroform was added to the flask through the addition funnel over a 60 minute period maintaining the reaction temperature at approximately 10° C. or lower. After the addition of the acid chloride was complete, the reaction was stirred for additional 60 minutes. The layers were separated and the chloroform layer was washed twice with 500 mL distilled water, dried over anhydrous sodium sulfate and vacuum stripped to yield the product.

reactant | glycerol | 451 mmol, 41.5 grams | OCC(O)CO | C3H8O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Trimethyl orthoacetate | C(C)(OC)(OC)OC | C5H12O3
reactant | sodium carbonate | 1 gram | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-hydroxymethyl-2-methoxy-2-methyl-1,3-dioxolane | 65 grams, 97% | OCC1OC(OC1)(C)OC | C6H12O4
